US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)[1,1′-biphenyl]-4-carbohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added (1,1′-biphenyl)-4-carbohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 201 mg of the title compound (86%) as a yellow solid in 99.8% purity by HPLC (Rt: 6.49, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | (1,1′-biphenyl)-4-carbohydrazide | C1(=CC=C(C=C1)C(=O)NN)C1=CC=CC=C1 | C13H12N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)[1,1′-biphenyl]-4-carbohydrazide | 201 mg, 86% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C21H14IN3O2
